US06172057B2
2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid hydroxyamide was prepared according to the procedure outlined in Example 1. Starting from 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid (0.71 g, 1.62 mmol) and hydroxylamine hydrochloride (1.39 g, 20 mmol), 0.48 g of the product was isolated. Yield 67%; off-white solid; mp 65° C.; MS: 445.0 (M+H)+; 1H NMR (300 MHz, DMSO-d6) 8 0.84 (t, J=6.8 Hz, 3H), 1.10-1.40 (m, 6H), 1.85-2.00 (m, 2H), 2.79 (d, J=17.9 Hz, 1H), 2.90 (d, J=17.9 Hz, 1H), 3.50 (d, J=13.7 Hz, 1H), 3.74 (d, J=13.7 Hz, 1H), 3.89 (s, 3H), 7.19 (d, J=9.0 Hz, 2H), 7.76 (d, J=9.0 Hz, 2H), 7.85-7.89 (m, 1H), 8.37-8.40 (m, 1H), 8.70-8.80 (m, 2H), 11.0 (brs, 1H); IR (KBr, cm−1): 3157 m, 3095 m, 2954 s, 2932 s, 2858 m, 1671 m, 1593 s;

reactant | 2-(4-methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid | 1.62 mmol, 0.71 g | COC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CCCCCC)CC=1C=NC=CC1 | C23H27NO5S
reactant | hydroxylamine hydrochloride | 20 mmol, 1.39 g | Cl.NO
product | 2-(4-Methoxy-benzenesulfonyl)-2-pyridin-3-ylmethyl-dec-4-ynoic acid hydroxyamide | Yield 67% | ONC(C(CC#CCCCCC)(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C23H28N2O5S
